US07732461B2
N-{(3R,4S)-1-[(3-Chloro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-3-hydroxy-4-piperidinyl}-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxamide
The free base of the title compound was synthesised from racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (79 mg), 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid (for a synthesis see WO2003087098, Example 301(b)) (50 mg), triethylamine (0.066 ml) and HATU (95 mg) in DMF (2 ml) according to the general method of Example 9 in 59% yield.

reactant | racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 79 mg | N[C@@H]1[C@@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl)O | C16H19ClN4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
reactant | triethylamine | 0.066 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{(3R,4S)-1-[(3-Chloro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-3-hydroxy-4-piperidinyl}-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxamide | 59% yield | ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3C[C@H]([C@H](CC3)NC(=O)C=3C=CC=1SCC(NC1N3)=O)O)=O | C24H23ClN6O4S
